US08202868B2
N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-4-fluoro-benzamide hydrochloride
0.45 g of 4-fluorobenzoic acid (3.21 mmol) and 0.98 g of triethylamine (9.7 mmol) were dissolved in 30 ml of dimethylformamide. At room temperature, 0.5 g of hydroxybenzotriazole (HOBt, 3.7 mmol), 1.2 g of 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine (3.47 mmol), and 0.7 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDCl, 3.65 mmol) were added and the mixture was stirred for 68 h. The reaction mixture was partitioned between water and ethyl acetate. The organic phase was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (2%). The oily residue was re-dissolved in isopropanol and 1 N hydrochloric acid in diisopropyl ether was added. The resulting precipitate was filtered and dried to yield 1.2 g of the title compound.

reactant | 4-fluorobenzoic acid | 3.21 mmol, 0.45 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | triethylamine | 9.7 mmol, 0.98 g | C(C)N(CC)CC | C6H15N
reactant | hydroxybenzotriazole | 3.7 mmol, 0.5 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine | 3.47 mmol, 1.2 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 3.65 mmol, 0.7 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-4-fluoro-benzamide hydrochloride | 1.2 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC(C1=CC=C(C=C1)F)=O)C1CCC1 | InChI=1S/C27H38FN5O.ClH/c1-27(2,3)26-30-23(20-7-6-8-20)19-24(31-26)33-17-15-32(16-18-33)14-5-4-13-29-25(34)21-9-11-22(28)12-10-21;/h9-12,19-20H,4-8,13-18H2,1-3H3,(H,29,34);1H
